US07704995B2
3-Amino-N-methyl-6-(3-{[(phenylmethyl)amino]sulfonyl}phenyl)pyrazine-2-carboxamide was synthesized from N-(phenylmethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide and 3-amino-6-bromo-N-methyl-2-pyrazincarboxamide as yellow solid. Yield 20%. 1H NMR (400 MHz, d6-DMSO): 8.84 (s, 1H), 8.80 (m, 1H), 8.46 (d, 1H), 8.38 (br s, 1H), 8.20 (t, 1H), 7.78 (d, 1H), 7.66 (t, 1H), 7.26 (m, 4H), 7.18 (m, 1H), 4.02 (d, 2H), 2.82 (d, 3H); MS (EI) for C19H19N5O3S: 398 (MH+).

reactant | N-(phenylmethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenesulfonamide | C1(=CC=CC=C1)CNS(=O)(=O)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C19H24BNO4S
reactant | 3-amino-6-bromo-N-methyl-2-pyrazincarboxamide | NC=1C(=NC(=CN1)Br)C(=O)NC | C6H7BrN4O
product | 3-Amino-N-methyl-6-(3-{[(phenylmethyl)amino]sulfonyl}phenyl)pyrazine-2-carboxamide | Yield 20% | NC=1C(=NC(=CN1)C1=CC(=CC=C1)S(=O)(=O)NCC1=CC=CC=C1)C(=O)NC | C19H19N5O3S
